US07781591B2
A solution of 1-(3,4-dimethoxybenzyl)-5-[4-methoxy-3-(2-methoxyethoxy)phenyl]-4-oxo-1,4-dihydro-pyridine-3-carbonitrile (300 mg, 0.666 mmol) and lithium chloride (LiCl, 254 mg, 6 mmol) in 2.5 mL of POCl3 was heated at reflux for 2.5 h. The excess POCl3 was removed by evaporating in vacuo and then was co-evaporated with toluene. The residue was dissolved in 100 mL ethyl acetate and washed with ice-cold 1 N aqueous sodium hydroxide. The organic layer was separated, dried over anhydrous MgSO4, filtered, and concentrated in vacuo, and the resulting solid was triturated with isopropyl alcohol to yield 166 mg (78% yield) of 4-chloro-5-[4-methoxy-3-(2-methoxyethoxy)phenyl]-nicotinonitrile as an off-white solid.

reactant | 1-(3,4-dimethoxybenzyl)-5-[4-methoxy-3-(2-methoxyethoxy)phenyl]-4-oxo-1,4-dihydro-pyridine-3-carbonitrile | 0.666 mmol, 300 mg | COC=1C=C(CN2C=C(C(C(=C2)C2=CC(=C(C=C2)OC)OCCOC)=O)C#N)C=CC1OC | C25H26N2O6
reactant | lithium chloride | 6 mmol, 254 mg | [Cl-].[Li+]
solvent | POCl3 | 2.5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-5-[4-methoxy-3-(2-methoxyethoxy)phenyl]-nicotinonitrile | 166 mg, 78% yield | ClC1=C(C=NC=C1C#N)C1=CC(=C(C=C1)OC)OCCOC | C16H15ClN2O3
